US09145413B2
a. (2S,4R)-4-Fluoro-1-methyl-pyrrolidine-2-carboxylic acid (Intermediate 91a)
A solution of (2S,4R)-4-fluoropyrrolidine-2-carboxylic acid (1.00 g, 7.52 mmol), formaldehyde (37% wt in water, 1.00 mL, 30.8 mmol), 12N HCl (0.5 mL) in IMS (38 mL) was purged with argon. To the solution was added Pd/C (100 mg), then the flask was evacuated and filled with H2 the resulting suspension was stirred at RT for 3 d. The reaction mixture was passed through a pad of Celite and the mixture was concentrated in vacuo to give the title compound as a pale yellow gum (600 mg, 54%). 1H NMR (300 MHz, d6-DMSO): 2.29-2.37 (1H, m), 2.63-2.67 (1H, m), 2.97 (3H, s), 3.44-3.53 (1H, m), 4.00-4.04 (1H, m), 4.58 (1H, dd, J 11.6, 7.11), 5.41-5.45 (1H, m).

reactant | (2S,4R)-4-fluoropyrrolidine-2-carboxylic acid | 7.52 mmol, 1.00 g | F[C@@H]1C[C@H](NC1)C(=O)O | C5H8FNO2
reactant | formaldehyde | 30.8 mmol, 1.00 mL | C=O | CH2O
reactant | HCl | 12N, 0.5 mL | Cl | ClH
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (2S,4R)-4-Fluoro-1-methyl-pyrrolidine-2-carboxylic acid | 600 mg, 54% | F[C@@H]1C[C@H](N(C1)C)C(=O)O | C6H10FNO2
